US08420661B2
Step 1: (4RS)-4-Hydroxy-3,3-dimethyl-dihydro-furan-2,5-dione
(3RS)-3-Hydroxy-2,2-dimethyl-succinic acid [Tetrahedron Letters (2002), 43(52), 9513-9515] (120 mg, 0.74 mmol) was suspended in CH2Cl2 (2 ml) and cooled to 0-5° C. Trifluoroacetic anhydride (260 μl, 1.85 mmol) was added and the reaction mixture stirred for 2 hours at room temperature. The reaction mixture was evaporated to dryness and used without any further purification in the next step.

reactant | (3RS)-3-Hydroxy-2,2-dimethyl-succinic acid | 0.74 mmol, 120 mg | OC(C(C(=O)O)(C)C)C(=O)O | C6H10O5
reactant | Trifluoroacetic anhydride | 1.85 mmol, 260 μl | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
product | (4RS)-4-Hydroxy-3,3-dimethyl-dihydro-furan-2,5-dione | OC1C(C(OC1=O)=O)(C)C | C6H8O4
